US08067426B2
Intermediate 15: 2-(Butyloxy)-9-(5-chloropentyl)-8-(methyloxy)-9H-purin-6-amine
2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate (2 g, 5.69 mmol) and potassium carbonate (1.967 g, 14.23 mmol) were suspended in DMF (20 ml) and heated to 50° C., under nitrogen for 1 hour. The mixture was cooled to room temperature, 1-bromo-5-chloropentane (0.75 ml, 5.69 mmol) was added and stirring was continued at room temperature for 18 hours. The reaction mixture was partitioned between DCM (40 ml) and water (40 ml) and the layers were separated using a hydrophobic frit. The aqueous layer was extracted again with DCM (10 ml) and the combined organics were washed with saturated lithium chloride solution, separated (hydrophobic frit) and concentrated in vacuo to give the title compound as a yellow oil (1.946 g).

reactant | 2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate | 5.69 mmol, 2 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 14.23 mmol, 1.967 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-5-chloropentane | 5.69 mmol, 0.75 ml | BrCCCCCCl | C5H10BrCl
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(Butyloxy)-9-(5-chloropentyl)-8-(methyloxy)-9H-purin-6-amine | 1.946 g | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCCl)OC)N | C15H24ClN5O2
